Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Pressure ulcer, AMS
 
Major Surgical or Invasive Procedure:
Bedside Sacral Decubitus Ulcer Debridement
Right PICC line placement
Endotracheal Intubation
Central Venous Line Placement

 
History of Present Illness:
___ hx ESRD ___ DM nephropathy) s/p failed DDRT at ___ in ___
(failed I/s/o disseminated adenovirus infxn in ___ on HD 
___, T2DM, HTN, C. diff, HFrEF, PAD s/p multiple vascular
interventions and recent R BKA who was recently admitted for B
fragilis bacteremia and stage III sacral ulcer now presents with
worsening ulcer, altered mental status, and leukocytosis. 

Of note, patient was recently admitted from ___ after
presenting from SNF with altered mental status. He was found to
have b fragilis bacteremia thought to be ___ to sacral wound
ulcer. He was initiated on vanc/ceftaz/flagyl which was 
narrowed to cefazolin for polymicrobial sacral ulcer SSTI and 
flagyl for B fragilis BSI per ID for total 4 week course (ending
___. His hospital course was otherwise complicated by toxic
metabolic encephalopathy, which improved with antibiotics as 
well
as worsened hypercarbia in setting of  poor respiratory
mechanics, atelectasis, recent infection.  He was seen in ___
clinic on ___, where it was recommended to stop antibiotics as
his sacral wound site appeared normal. He was recommended to 
have
plastic surgery evaluation for consideration of surgical
intervention and flap placement to assist with healing.

Since discharge, per patient wife, he was doing well at rehab
from a mental status perspective until last ___, when he 
had
a fall from bed. Fall was unwitnessed, his estimated time on the
ground was 30 minutes. No imaging was done at that time. Since
then, he has been more confused, with limited energy and poor PO
intake. Endorses cough productive for yellow sputum, otherwise 
no
fevers, chills, diarrhea, abdominal pain (though OPAT notes
document recent diarrhea)
 
Past Medical History:
-ESRD ___ T2DM, HTN on HD MWF 
-PAD 
-Adenoviremia ___, 
-Hypertension
-Diabetes
-Hyperlipidemia
-diastolic CHF (EF 55-60% in ___
-BPH
-PAD
-Vertigo
-Gout
-Lateral cutaneous femoral nerve of thigh compression or 
syndrome
-Ankle fracture  
-Metatarsal fracture  
-History of parathyroidectomy   
-Alopecia cicatrisata  
-Complex renal cyst  
-s/p cholecystectomy  
-s/p left TMA in ___ due to osteomyelitis
-s/p R BKA in ___ due to wet gangrene 

 
Social History:
___
Family History:
Father passed at age ___ and had cancer. Mother passed at age ___ 
and had hypertension. Brother and sister had adult onset 
diabetes.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================  
VS: REVIEWED IN META VISION
GEN: in no acute distress, sitting up in bed. Minimally verbal,
unable to engage with questions
CV: RRR no r/g, ___ LUSB murmur
PULM: Clear to auscultation bilaterally. Symmetric expansion
GI: soft NT/ND +BS no rebound or guarding
EXT: s/p R BKA with clear incision.  L foot without any 
erythema,
swelling, or pain to palpation.
Skin: Did not visualize sacral ulcer on exam
NEURO: alert and oriented x3. CN II-XII intact. 

DISCHARGE EXAM
==============
___ 0811 Temp: 97.6 PO BP: 107/78 HR: 98 RR: 20 O2 sat: 90%
O2 delivery: RA FSBG: 196  
GENERAL: No acute distress, somnolent, minimal interaction
HEENT: EOMI, MMM
NECK: No JVD. 
CARDIAC: RRR, normal s1/s2
LUNGS: CTAB, no w/r/r
ABDOMEN: soft, nontender, nondistended
EXTREMITIES: L DP pulse 2+. R BKA and L metatarsal amputation 
intact w/o drainage or erythema. L AV fistula.
NEURO: Alert, moves all extremities, face symmetric
 
Pertinent Results:
ADMISSION LABS:
===================

___ 08:53PM BLOOD WBC-13.8* RBC-5.04 Hgb-13.7 Hct-47.4 
MCV-94 MCH-27.2 MCHC-28.9* RDW-17.9* RDWSD-60.3* Plt ___
___ 08:53PM BLOOD Neuts-63.0 ___ Monos-15.2* 
Eos-0.9* Baso-0.6 Im ___ AbsNeut-8.67* AbsLymp-2.74 
AbsMono-2.09* AbsEos-0.12 AbsBaso-0.08
___ 08:53PM BLOOD ___ PTT-36.2 ___
___ 10:40PM BLOOD Glucose-423* UreaN-66* Creat-5.3*# Na-140 
K-5.2 Cl-91* HCO3-28 AnGap-21*
___ 10:40PM BLOOD ALT-94* AST-156* AlkPhos-146* TotBili-0.4
___ 08:40AM BLOOD calTIBC-150* Ferritn-2040* TRF-115*
___ 09:30PM BLOOD Triglyc-445* HDL-26* CHOL/HD-5.7 
LDLmeas-62
___ 12:12AM BLOOD ___ pO2-36* pCO2-61* pH-7.33* 
calTCO2-34* Base XS-3

IMAGING:
=============
MR HEAD W/OUT CONTRAST ___.  Study is mildly degraded by motion.
2. Punctate right middle cerebellar peduncle probable acute to 
subacute
infarct.
3. Left cerebellar probable chronic infarct with question 
minimal hemosiderin
staining versus volume averaging artifact
 
MRA BRAIN W/OUT CONTRAST ___.  Study is moderately degraded by motion.
2. The left distal V3 and proximal V4 segments are not 
definitely seen, which
may be related artifact.  These structures were noted to be 
visible on ___
prior brain MRA.
3. Irregularity of left distal V4 segment is progressed compared 
to ___ prior
exam, and may be artifactual. If not artifactual, findings may 
represent
atherosclerotic narrowing.
4. Nonocclusive probable atherosclerotic narrowing of circle of 
___ as
described.
5. Otherwise, within limits of study, grossly patent circle of 
___ without
definite evidence of stenosis,occlusion,or aneurysm greater than 
3 mm.

___ TTE
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/global LV systolic function. 
Dilated and mildly hypokinetic right ventricle. Mild calcific 
aortic
stenosis. Mild mitral regurgitation. Moderate to severe 
pulmonary hypertension. No LV thrombus seen.
Compared with the prior TTE ___, the estimated pulmonary 
artery systolic pressure is now
increased.

___ CT A/P W/O Contrast
IMPRESSION: 
1. Apparent interval surgical debridement and bony resection at 
the large 
sacral decubitus ulcer.  The ulcer extends down to bone without 
definite bony 
erosion. 
2. No acute intra-abdominal abnormality. 
3. Right hip joint intra-articular loose bodies, unchanged. 
4. Atrophic left renal transplant, unchanged. 

___ CT Chest W/O Contrast
IMPRESSION:  
1.  Diffuse, subtle, centrilobular ground-glass opacities, 
appear 
significantly improved from ___ and are compatible with 
improving 
infection or inflammation. 
2.  Trace secretions in the dependent airways, appear improved 
from ___ with downstream improving dependent, paramedian 
consolidation, which 
likely represents a combination of atelectasis and improving 
aspiration. 
3.  Main pulmonary artery enlargement, unchanged, suggestive of 
pulmonary 
hypertension. 
4.  See dedicated CT abdomen and pelvis from the same date. 

___ CXR
IMPRESSION:  
ET tube tip is 6 cm above the carina.  Right PICC line tip is at 
the level of cavoatrial junction.  NG tube tip is in the 
stomach. 
Heart size and mediastinum are overall stable but there is right 
mediastinal shift due to interval development of right lower 
lobe atelectasis.  No pulmonary edema.  Right pleural effusion 
is possibility.  No pneumothorax. 

___ CXR
IMPRESSION:  
New pulmonary edema, left pleural effusion and bibasal 
atelectasis. 

___ CT head non-contrast
IMPRESSION:  
No acute intracranial abnormality. 

MICROBIOLOGY:
================
sacral wound culture ___ 12:33 pm SWAB      Source: wound. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___: 
      PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH. 
         Piperacillin/Tazobactam test result performed by ___ 
___. 
         Ceftolozane/tazobactam AND CEFTAZIDIME/AVIBACTAM 
Susceptibility
         testing requested by ___ ___. 
         IMIPENEM , MEROPENEM , AND AMIKACIN Susceptibility 
testing
         requested per ___ (___) ___. 
         IMIPENEM AND MEROPENEM test result performed by 
Microscan. 
         Ceftolozane/tazobactam MIC OF 256/4 MCG/ML RESISTANT. 
         CEFTAZIDIME/AVIBACTAM MIC OF 32/4 MCG/ML RESISTANT. 
         Ceftolozane/tazobactam AND CEFTAZIDIME/AVIBACTAM test 
result
         performed by Etest. 
      ENTEROCOCCUS SP..    RARE GROWTH. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |          ENTEROCOCCUS SP.
                             |          |   
AMIKACIN--------------    16 S
AMPICILLIN------------             =>32 R
CEFEPIME--------------  =>64 R
CEFTAZIDIME-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------     8 I
IMIPENEM--------------     4 I
MEROPENEM-------------     4 I
PENICILLIN G----------             =>___ R
PIPERACILLIN/TAZO-----       R
TOBRAMYCIN------------   <=1 S
VANCOMYCIN------------            <=0.5 S

   ANAEROBIC CULTURE (Final ___: 
      MIXED BACTERIAL FLORA. 
         Mixed bacteria are present, which may include anaerobes 
and/or
         facultative anaerobes. Bacterial growth was screened 
for the
         presence of B.fragilis, C.perfringens, and C.septicum. 
None of
         these species was found. 

___ 9:15 am SPUTUM      Source: Endotracheal. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      ___ PMNs and <10 epithelial cells/100X field. 
      1+    (<1 per 1000X FIELD):   MULTIPLE ORGANISMS 
CONSISTENT WITH     
                                    OROPHARYNGEAL FLORA. 

   RESPIRATORY CULTURE (Final ___: 
      SPARSE GROWTH Commensal Respiratory Flora. 

 
Brief Hospital Course:
PATIENT SUMMARY:
========================
___ hx ESRD ___ DM nephropathy) s/p failed DDRT at ___ in ___ 
(failed I/s/o disseminated adenovirus infxn in ___ on HD 
___, T2DM, HTN, C. diff, HFrEF, PAD s/p multiple vascular 
interventions and recent R BKA who was recently admitted for B
fragilis bacteremia and stage III sacral ulcer, discharged to 
rehab then re-presented s/p fall on ___ with AMS, hypotension 
and leukocytosis with course complicated by ongoing poor mental 
status despite completing treatment for infection and right 
middle cerebellar peduncle infarct thought unlikely to explain 
mental status. Transferred from the MICU to the medicine floor 
on ___ given resolving sepsis likely from sacral wound. He was 
stable on the medicine floor with waxing and waning orientation 
(likely his new baseline) requiring intermittent dialysis, pain 
medicine, and anti-itching medicine.

ACTIVE ISSUES
=============
#Intubation d/t mental status
#Hypercarbic respiratory failure now resolved
#Chronic Aspiration
Patient intubated ___ for airway protection iso worsening 
mental status. Multifocal opacities on CT Chest concerning for 
aspiration pneumonitis vs pneumonia.  Discussions with wife 
throughout course indicated that he would want everything done 
including trach/PEG if necessary; however of note he would 
require C-surg d/t complicated anatomy. He had a prolonged 
intubation due to excessive  secretions and poor mental status. 
He was able to be extubated ___ and did well. His diet was 
advanced slowly which he tolerated well. Diet at discharge was 
soft solids, thin liquids, with 1:1 supervision.

#Toxic metabolic encephalopathy
#Epileptiform discharges on EEG
#Altered mental status
#CVA - right middle cerebellar peduncle
Mental status was poor despite completing treatment for 
infection above. EEG over multiple days not consistent with 
seizure like activity. MRI brain revealed small punctate infarct 
in right middle cerebellar peduncle; however, this is unlikely 
to explain mental status. MRA with patent circle of ___ 
arteries. Patient received keppra 500 BID with extra 500 post 
dialysis on MWF. He received atorvastatin and ASA for CVA risk. 
Plavix was held in setting of bleeding. Neurology and vascular 
surgery both agreed that Plavix can be discontinued. 

# ESRD on ___ HD: 
Received CRRT due to hypotension; renal followed. Patient was 
transitioned back to MWF HD without complication. Requiring 
midodrine TID for hypotension. 

# History of B fragilis blood stream infection
# Chronic Stage IV Sacral Ulcer
# Septic shock
# Leukocytosis
# Multifocal Pneumonia
Initially leukocytosis with AMS and HD instability c/w septic 
shock. S/p abx for b fragilis ___ sacral wound. CT A/P, CT Head 
x2 negative CT Chest ___ revealing multifocal opacities w/ air 
bronchograms. CT findings likely represent inflammatory changes 
related to multiple aspiration events. Required levophed for 
hypotension as well as high dose midodrine. s/p Vanc, ceftaz, 
flagyl empirically ___ - ___. Fecal management system 
(flexiseal) placed to divert stool from open sacral wound and 
help with healing. Would need diverting colostomy for definitive 
wound repair, which wife states is absolutely NOT within GOC. 
Wound care and ACS followed, recommended enzymatic debridement 
and ultimately placed wound vac. Plastic was not offering flap 
for closure given comorbidities. On ___, pressor requirement and 
white count increased, started vanc/meropenem again given 
blue-green drainage from wound; wound culture grew pseudomonas. 
He finished course of meropenem on ___. Patient also received 
stress dose steroids in the setting of sepsis. He remained 
stable without any other signs of infection through his hospital 
stay.

# Anemia
# Hematochezia 
Chronic anemia due to renal disease, trended downward ___, with 
CT C/A/P without evidence of bleed. Stool dark and guiac 
positive making GI bleed most likely. Patient was too unstable 
at present to undergo scope. Had visualized melena and 
hematochezia earlier in admission iso likely hypotension/bowel 
ischemia which had resolved but bleeding seems to have recurred 
while on asa/Plavix for CVA. Plavix was held and hemoglobin 
remained stable. Endoscopic evaluation was deferred. Patient 
received PO lansoprazole twice daily for two weeks. He had no 
more episodes of GI bleeding through his stay and he was 
transitioned to his home famotidine 20 mg daily. Hemoglobin was 
stable on discharge. 

# Type 2 Diabetes Mellitus
Patient was on insulin gtt in the ICU and transitioned to basal 
insulin glargine 16u with Humalog insulin sliding scale.

#SVT (resolved) 
#Likely MAT
Appeared to have MAT on EKG while in MICU. Has intermittent 
episodes of SVT into the 130s while on dialysis. Blood pressure 
has been stable without any symptoms noted during episodes. Rate 
control is being deferred given soft blood pressures and issues 
with hypotension during HD. 

CHRONIC/RESOLVED ISSUES
=======================
#Nutrition: Began home tube feeds which was advanced

#Transaminase elevation: He had a mild transaminase elevation 
last admission in ___ thought to be ___ drug effect from 
antibiotics." Known to be HCV positive but not active given 
negative surface antigen. No thrombosis or sign of chronic liver 
disease on RUQUS. No hx of new drugs that would likely cause 
DILI. Intermittently hypotensive and likely ischemic 
hepatopathy. Resolved.

# PVD: Held atorvastatin initially due to liver injury, 
restarted atorvastatin after liver function normalized per 
neurology recommendations given vascular disease. Held 
gabapentin throughout his hospital stay due to mental status.

#Gout: Continued allopurinol which was changed to every other 
day dosing on ESRD.

TRANSITIONAL ISSUES:
====================
[] Can likely stop keppra in ___ mo pending Neurology would like 
to see him as an outpatient and they will place EEG and wean him 
off his keppra. Please connect with ___ and Dr. ___ 
___ 
[] Consider EGD/colonoscopy for outpatient work up of GIB
[] Needs Urology f/u ___ CT abd showing R renal 2x2 cm 
lesion
[] No plan for flap closure giving need for diverting colostomy, 
but if these plans are re-introduced ID would like to be 
involved to treat chronic sacral wound prior to any operation
[] Will likely require ongoing goals of care discussions given 
chronic infections, multiple comorbidities and low likelihood of 
return to functional baseline

#CODE STATUS: Full 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
2. Allopurinol ___ mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. Calcitriol 0.25 mcg PO DAILY 
6. Collagenase Ointment 1 Appl TP DAILY pressure ulcer  
7. Docusate Sodium 100 mg PO BID:PRN Constipation - Second Line 
8. Famotidine 20 mg PO DAILY 
9. Hydrocortisone Cream 1% 1 Appl TP BID:PRN itching 
10. PredniSONE 2.5 mg PO DAILY 
11. Senna 8.6 mg PO BID:PRN Constipation - First Line 
12. Carbamide Peroxide 6.5% ___ DROP BOTH EARS BID 
13. MetroNIDAZOLE 500 mg PO Q8H 
14. CeFAZolin 2 g IV POST HD (MO,WE) 
15. CeFAZolin 3 g IV POST HD (FR) 
16. Zinc Sulfate 220 mg PO DAILY 
17. Nystatin Oral Suspension 5 mL PO QID 
18. B Complex Plus Vitamin C (vitamin B comp and C no.3) 
___ mg oral DAILY 
19. Gabapentin 200 mg PO QHS 

 
Discharge Medications:
1.  Glargine 16 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
2.  LevETIRAcetam 500 mg PO Q12H  
3.  LevETIRAcetam 500 mg PO 3X/WEEK (___) 
Give on post-dialysis days.  
4.  Midodrine 20 mg PO TID  
5.  Nephrocaps 1 CAP PO DAILY  
6.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
7.  Sarna Lotion 1 Appl TP QID:PRN itching  
8.  Allopurinol ___ mg PO EVERY OTHER DAY  
9.  Atorvastatin 20 mg PO QPM  
10.  Docusate Sodium 100 mg PO BID  
11.  Aspirin 81 mg PO DAILY  
12.  Calcitriol 0.25 mcg PO DAILY  
13.  Carbamide Peroxide 6.5% ___ DROP BOTH EARS BID  
14.  Collagenase Ointment 1 Appl TP DAILY pressure ulcer   
15.  Famotidine 20 mg PO DAILY  
16.  Hydrocortisone Cream 1% 1 Appl TP BID:PRN itching  
17.  PredniSONE 2.5 mg PO DAILY  
18.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
19.  Zinc Sulfate 220 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
=============
intubation for mental status and airway protection
hypercarbic respiratory failure
multifocal pneumonia
chronic aspiration
septic shock
toxic metabolic encephalopathy
right middle cerebella peduncle infarct
chronic stage IV sacral ulcer
end stage renal disease on dialysis

SECONDARY:
============
history of b fragilis blood stream infection
peripheral vascular disease
gout
transaminitis, resolved
gastrointestinal bleed, resolved
type II diabetes mellitus
acute on chronic anemia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Sometimes alert and interactive and 
sometimes lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,  
 
 WHY WERE YOU ADMITTED TO THE HOSPITAL?
 - You were admitted to the hospital because you were confused 
and found to have an infection.

 WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?  
 - Your infection was treated with antibiotics and steroids.
 - You required multiple procedures to clean out the wound on 
your back.
 - You were found to have a small stroke in the hospital and 
were temporarily given medications to treat the stroke.
 - You continued to receive dialysis while you were in the 
hospital.  
 - You improved and were ready to leave the hospital.  

 WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
 - Please take all of your medications as prescribed and go to 
your follow up appointments with your doctors ___ below)   
 - Seek medical attention if you have new or concerning symptoms 


 It was a pleasure participating in your care. We wish you the 
best!
 
 - Your ___ Care Team  
 
Followup Instructions:
___